### PR TITLE
[Merged by Bors] - feat: port `clear_value` tactic

### PR DESCRIPTION
**Pull request by kmill**
Copies the structure of the `clear` tactic and `Lean.MVarId.changeLocalDecl` to implement the `clear_value` tactic.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/ClearValue.lean [hunk 1]
```diff
@@ -0,0 +1,32 @@
...
+  fail_if_success clear_value x
+  clear_value y
+  clear_value x
+  fail_if_success clear_value x
+  fail_if_success clear_value y
+  exact y.2
+
+example : let x := 22; let y : Fin x := 0; y.1 < x := by
+  intro x y
+  fail_if_success clear_value x
```
Comment (fpvandoorn) [inline test/ClearValue.lean:20]: Why does this fail? I don't see how anything is dependent on `x` being `22`.

File: Mathlib/Tactic/Basic.lean [hunk 2]
```diff
@@ -124,3 +124,37 @@ elab (name := clearAuxDecl) "clear_aux_decl" : tactic => withMainContext do
...
+    let tgt ← mvarId'.getType
+    unless tgt.isLet do
+      mvarId.withContext <|
+        throwTacticEx `clear_value mvarId m!"{Expr.fvar fvarId} is not a local definition"
+    let tgt' := Expr.forallE tgt.letName! tgt.letType! tgt.letBody! .default
+    unless ← isTypeCorrect tgt' do
+      mvarId.withContext <|
+        throwTacticEx `clear_value mvarId
+          m!"cannot clear {Expr.fvar fvarId}, the resulting context is not type correct"
+    let mvarId'' ← mkFreshExprMVar tgt'
```
Comment (fpvandoorn) [inline Mathlib/Tactic/Basic.lean:144]: should this be synthetic opaque? (probably not, but just checking)

**Review by fpvandoorn — COMMENTED** [review]
LGTM

bors d+

File: Mathlib/Tactic/Basic.lean (hunk 2 above)
Comment (kmill) [reply Mathlib/Tactic/Basic.lean:144]: Yeah, I was wondering about this. I figured that `introNP` would be responsible for creating the final metavariable so it didn't matter, but maybe out of principle it should be synthetic opaque?

File: test/ClearValue.lean (hunk 1 above)
Comment (kmill) [reply test/ClearValue.lean:20]: It's the `0`, since to construct it it depends on `x = Nat.succ 21`.
